US04698337
A solution of phosphoryl chloride (3.68 g.), N,N-dimethylformamide (1.75 g.) and tetrahydrofuran (4 ml.) was stirred at -5° to -10° C. for 30 minutes and added to a suspension of 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid (syn isomer, 2 g.) in tetrahydrofuran (16 ml.). The mixture was stirred at the same temperature to give an activated acid solution. On the other hand, a suspension of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.62 g.) in 50% aqueous acetone (36 ml.) was adjusted to pH 7.5 with triethylamine. The activated acid solution was added dropwise to the above solution at 0° to -5° C. while keeping at pH 7.5 to 8.0 with triethylamine and stirred at the same temperature for 30 minutes. Ethyl acetate (100 ml.) was added to the resultant solution and adjusted to pH 2.5 with 10% hydrochloric acid. After filtration, the filtrate was extracted with ethyl acetate (100 ml.) twice. The extracts were washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether and the precipitates were collected by filtration to give 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.12 g.).

reactant | phosphoryl chloride | 3.68 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(N)=O | C8H8N4O5S
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.62 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | acetone | 36 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.75 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.12 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCC#N | C18H16N10O6S3
